US06245773B1
To a solution of hydroxylamine hydrochloride (3.67 g, 52.8 mmol) in water (10 mL) and ethyl alcohol (80 mL) was added 1-benzyl piperidone (10.0 g, 52.8 mmol) at room temperature. The reaction mixture was heated to reflux for 4 h and then stirred at room temperature overnight. The resulting white solid was filtered, washed with ether and dried (8.4 g, 80%). It was added in small portions to a suspension of lithium aluminum hydride (2.3 g, 60.0 mmol) in diethyl ether (150 mL) at room temperature and the suspension was heated to reflux for 8 h. The reaction mixture was cooled to 0° C. and quenched with successive addition of water (3 mL), 3 N NaOH (3 mL) and water (9 mL). The white suspension was filtered and the filtrate was dried over MgSO4. The solvent was removed in vacuo after filtration. 4-Amino-1-benzyl-piperidine was obtained as a colorless oil (6.0 g). It was used in the next step without purification.

reactant | hydroxylamine hydrochloride | 52.8 mmol, 3.67 g | Cl.NO
reactant | 1-benzyl piperidone | 52.8 mmol, 10.0 g | C(C1=CC=CC=C1)N1C(CCCC1)=O | C12H15NO
reactant | lithium aluminum hydride | 60.0 mmol, 2.3 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | water | 10 mL | O | H2O
solvent | ethyl alcohol | 80 mL | C(C)O | C2H6O
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
product | 4-Amino-1-benzyl-piperidine | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
